US06624163B2
4-[(Methoxyacetyl-methyl-amino)-methyl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide
Using N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-methylaminomethyl-benzamide and methoxy-acetyl chloride, the title compound was prepared as yellow solid (83% yield). MS: m/e=485(M+H+).

reactant | N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-methylaminomethyl-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CNC)=O)N2CCOCC2 | C21H24N4O3S
reactant | methoxy-acetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 4-[(Methoxyacetyl-methyl-amino)-methyl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | COCC(=O)N(C)CC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C24H28N4O5S
